US04435588
5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoyl chloride (7 g, 0.0184 mole) was added over 1 hr to a solution of N-methylaminoethanol (2.8 g, 0.0372 mole), triethylamine (3.7 g, 0.0368 mole) and THF (30 ml) at 25°-38°. The resulting mixture was heated to and held at reflux for 1.5 hrs., cooled and concentrated. The residue was taken into 400 ml of ether, washed three times with water, dried over MgSO4 and concentrated to 7.8 g of crude product. Kugelrohr distillation under reduced pressure afforded 3.0 g of pure N-(2-Hydroxyethyl)-N-methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzamide as a gum; nmr (CDCl3) δ 2.95-3.08 (2S, 3H); 3.22-3.82 (m) 4.74 (s, 1H), 7.04-8.52 (m, 6H); ir (CHCl3) 3640, 3420, 1648 Cm-1.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoyl chloride | 0.0184 mole, 7 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | N-methylaminoethanol | 0.0372 mole, 2.8 g | CNC(C)O | C3H9NO
reactant | triethylamine | 0.0368 mole, 3.7 g | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(2-Hydroxyethyl)-N-methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzamide | 3.0 g | OCCN(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O)C | C17H14ClF3N2O5
